US07468370B2
Sodium 1-[8-(3-fluoro-phenyl)-[1,7]naphthyridin-6-yl]-piperidine-4-carboxylate
Sodium hydroxide (1 M, 0.25 ml) is added to a solution of 1-[8-(3-fluoro-phenyl)-[1,7]naphthyridin-6-yl]-piperidine-4-carboxylic acid ethyl ester (96 mg, 0.25 mmol) in THF (1 ml). The solution is stirred at room temperature for 24 hours, then heated to 45° C. for 24 hours. Water and ethyl acetate are added and the aqueous phase separated and evaporated to give the title compound. MS: APCI 352.0 MH+.

reactant | Sodium hydroxide | 1 M, 0.25 ml | [OH-].[Na+]
reactant | 1-[8-(3-fluoro-phenyl)-[1,7]naphthyridin-6-yl]-piperidine-4-carboxylic acid ethyl ester | 0.25 mmol, 96 mg | C(C)OC(=O)C1CCN(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)F | C22H22FN3O2
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | Sodium 1-[8-(3-fluoro-phenyl)-[1,7]naphthyridin-6-yl]-piperidine-4-carboxylate | FC=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)N1CCC(CC1)C(=O)[O-].[Na+] | InChI=1S/C20H18FN3O2.Na/c21-16-5-1-3-14(11-16)19-18-15(4-2-8-22-18)12-17(23-19)24-9-6-13(7-10-24)20(25)26;/h1-5,8,11-13H,6-7,9-10H2,(H,25,26);/q;+1/p-1
